US06235771B1
In DMF (120 ml) was dissolved 2-bromophenol (12 g), and to the solution were added potassium carbonate (14.4 g) and sodium iodide (10.4 g). To the mixture was added 2-bromoethylpropylether (10.4 ml), and the mixture was stirred at 90° C. for 16 hours. The reaction mixture was added to water, and the mixture was extracted with ethyl acetate, washed with saturated brine and dried with magnesium sulfate. Under reduced pressure, the solvent was evaporated, and the residue was purified with silica gel column chromatography (hexane/ethyl acetate=12/1) to give 1-bromo-2-(2-propoxyethoxy)benzene (14.4 g).

reactant | 2-bromophenol | 12 g | BrC1=C(C=CC=C1)O | C6H5BrO
reactant | potassium carbonate | 14.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 10.4 g | [I-].[Na+]
reactant | 2-bromoethylpropylether | 10.4 ml | BrCCOCCC | C5H11BrO
solvent | DMF | 120 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 1-bromo-2-(2-propoxyethoxy)benzene | 14.4 g | BrC1=C(C=CC=C1)OCCOCCC | C11H15BrO2
